US05070089
Methyl 4-(2-hydroxy-5-methoxybenzyl)-1-piperazinecarbodithioate (Com. No. 20)
To 20 ml of ethanol was 1.05 g of 37% formalin, and to the mixture was added under chilling with ice 2.29 g of methyl 1-piperazinecarbodithioate. The mixture was then stirred for 30 min. at room temperature, and, after addition of 1.24 g of 4-methoxyphenol, refluxed overnight under heating. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography. The obtained oil was crystallized from 10 ml of ethanol. The crystals were collected by filtration and subsequently washed with ethanol to give 1.06 g of the desired compound as white crystals, m.p. 112° C., yield 34%.

reactant | formalin | 1.05 g | C=O | CH2O
reactant | methyl 1-piperazinecarbodithioate | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | 4-methoxyphenol | 1.24 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Methyl 4-(2-hydroxy-5-methoxybenzyl)-1-piperazinecarbodithioate | 1.06 g, yield 34% | OC1=C(CN2CCN(CC2)C(=S)SC)C=C(C=C1)OC | C14H20N2O2S2
